US08067408B2
3-Bromo-2-methylbenzoic Acid
To a solution of 1,3-dibromo-2-methylbenzene (6.57 g) in dry THF (100 mL), t-BuLi solution (1.5 M in pentane, 17 mL) was added dropwise at −80° C. After addition, the reaction mixture was stirred between −76˜−78° C. for 2 h. After the mixture was cooled to below −80° C., dry ice was added, and then warmed to room temperature naturally. Solvent was removed, 5% NaOH solution (40 mL) was added, washed with CH2Cl2 (10 mL×2). Then the aqueous layer was acidified with concentrated HCl to pH=1, extracted with EtOAc (100 mL×2). The combined organic phase was dried over anhydrous Na2SO4. After removing the solvent, the residue was purified by silica column chromatography, (eluted with petrol ether:EtOAc=8:1 to 1:1), to obtain 3.58 g of the product. Yield: 63.4%. 1H NMR (400 MHz, CDCl3): δ 2.73 (s, 3 H), 7.15 (t, J=8.0 Hz, 1 H), 7.77 (dd, J=8.0 Hz, J=1.2 Hz, 1 H), 7.94 (dd, J=8.0 Hz, J=1.2 Hz, 1 H).

reactant | 1,3-dibromo-2-methylbenzene | 6.57 g | BrC1=C(C(=CC=C1)Br)C | C7H6Br2
reactant | dry ice | C(=O)=O | CO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | t-BuLi | 1.5 M, 17 mL | [Li]C(C)(C)C
product | 3-Bromo-2-methylbenzoic Acid | 3.58 g, Yield: 63.4% | BrC=1C(=C(C(=O)O)C=CC1)C | C8H7BrO2
